US06358980B1
1-Benzyl-4-(4-but-2-ynyloxy-benzenesulfonyl)-piperidine-4-carboxylic acid ethyl ester was prepared according to the general method as outlined in Example 1 (Step 6). Starting from (4-but-2-ynyloxy-benzenesulfonyl)-acetic acid ethyl ester (2 g, 6.73 mmol) and bis-(2-chloro-ethyl)-benzyl amine (2.3 g, 8.8 mmol). Yield 3.33 g (99%); yellow oil; MS: 455.9 (M+H)+

reactant | (4-but-2-ynyloxy-benzenesulfonyl)-acetic acid ethyl ester | 6.73 mmol, 2 g | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C14H16O5S
reactant | bis-(2-chloro-ethyl)-benzyl amine | 8.8 mmol, 2.3 g | ClCCN(CC1=CC=CC=C1)CCCl | C11H15Cl2N
product | 1-Benzyl-4-(4-but-2-ynyloxy-benzenesulfonyl)-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1(CCN(CC1)CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C25H29NO5S
